US05990105
0.222 g (0.0005 mol) of 2,6-dibromo-4-(3-trifluoromethylbenzenesulphonyl)-pyridine was dissolved in 10 ml of dioxan and treated with 0.047 g (0.00055 mol) of piperazine and 0.7 ml of triethylamine. The mixture was stirred at room temperature for 20 hrs. and subsequently at 40° C. for 3 hrs., the solvent was then removed and the residue was chromatographed on silica gel with 5% methanol in dichloromethane. There was obtained 0.14 g (62%) of 1-[6-bromo-4-(3-trifluoromethylbenzenesulphonyl)-pyridin-2-yl]-piperazine as yellow crystals; m.p.: 160-162° C.

reactant | 2,6-dibromo-4-(3-trifluoromethylbenzenesulphonyl)-pyridine | 0.0005 mol, 0.222 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)Br | C12H6Br2F3NO2S
reactant | piperazine | 0.00055 mol, 0.047 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 1-[6-bromo-4-(3-trifluoromethylbenzenesulphonyl)-pyridin-2-yl]-piperazine | 0.14 g, 62% | BrC1=CC(=CC(=N1)N1CCNCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C16H15BrF3N3O2S
